US06002008
4-(3-Hydroxy-4-methyl-phenylamino)-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinoline-3-carbonitrile
A mixture of 1 g (2.38 mmol) of 7-(2-chloro-ethoxy)-4-(3-hydroxy-4-methyl-phenylamino)-6-methoxy-quinoline-3-carbonitrile, 3.4 g (39 mmol) of morpholine, and 0.08 g of sodium iodide in 22 ml ethylene glycol dimethyl ether refluxed for 34 hr. The solvent was removed and the residue was mixed with warm ethyl acetate and saturated sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate. Solvent was removed and the residue was chromatographed on silica gel eluting with ethyl acetate-methanol-triethylamine 70:30:2.5 giving 1.05 of the title compound as a light orange solid: mass spectrum (electrospray, m/e) M+H 435.0; (M+2H)+2 218.0.

reactant | 7-(2-chloro-ethoxy)-4-(3-hydroxy-4-methyl-phenylamino)-6-methoxy-quinoline-3-carbonitrile | 2.38 mmol, 1 g | ClCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C=C1)C)O)OC | C20H18ClN3O3
reactant | morpholine | 39 mmol, 3.4 g | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.08 g | [I-].[Na+]
solvent | ethylene glycol dimethyl ether | 22 ml | COCCOC | C4H10O2
product | 4-(3-Hydroxy-4-methyl-phenylamino)-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-quinoline-3-carbonitrile | OC=1C=C(C=CC1C)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCN1CCOCC1)C#N | C24H26N4O4
